US07858621B2
To a suspension of 3-(2-chloro-6-trifluoromethyl-pyridin-3-yl)-acrylic acid (50 mg, 0.198 mmol) in 3-methoxy-pyrrolidine (40 mg, 0.396 mmol) was added DMF (1.0 ml). The mixture was stirred for 12 hours at room temperature. The reaction mixture was diluted with EtOAc and then washed two times with 1N-HCl and brine, dried over MgSO4, filtered and concentrated under reduced pressure. The crude residue was chromatographed to yield the 3-[2-(3-methoxy-pyrrolidin-1-yl)-6-trifluoromethyl-pyridin-3-yl]-acrylic acid (59 mg, 98%).

reactant | 3-(2-chloro-6-trifluoromethyl-pyridin-3-yl)-acrylic acid | 0.198 mmol, 50 mg | ClC1=NC(=CC=C1C=CC(=O)O)C(F)(F)F | C9H5ClF3NO2
reactant | 3-methoxy-pyrrolidine | 0.396 mmol, 40 mg | COC1CNCC1 | C5H11NO
reactant | DMF | 1.0 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-[2-(3-methoxy-pyrrolidin-1-yl)-6-trifluoromethyl-pyridin-3-yl]-acrylic acid | 59 mg, 98% | COC1CN(CC1)C1=NC(=CC=C1C=CC(=O)O)C(F)(F)F | C14H15F3N2O3
